US07625932B2
Preparation of ethyl 4-cyano-5-iodo-3-[4-(3-methylthio(2-thienyl))phenyl]pyrrole-2-carboxylate
In a manner analogous to the procedure set forth in example A-237, the title compound is prepared by iodinating ethyl 4-cyano-3-[4-(3 methylthio(2-thienyl))phenyl]pyrrole-2-carboxylate, prepared directly above, with N-iodo-succinamide.

reactant | ethyl 4-cyano-3-[4-(3 methylthio(2-thienyl))phenyl]pyrrole-2-carboxylate | C(#N)C=1C(=C(NC1)C(=O)OCC)C1=CC=C(C=C1)C=1SC=CC1SC | C19H16N2O2S2
reactant | N-iodo-succinamide | INC(CCC(=O)N)=O | C4H7IN2O2
product | ethyl 4-cyano-5-iodo-3-[4-(3-methylthio(2-thienyl))phenyl]pyrrole-2-carboxylate | C(#N)C=1C(=C(NC1I)C(=O)OCC)C1=CC=C(C=C1)C=1SC=CC1SC | C19H15IN2O2S2
